US05312826
A mixture of 2.2 g of 4-benzyloxycarbonyl-5-{2-[N-((1S)-1-ethoxycarbonyl-3-phenylpropyl)-(L)-phenylalanyl]aminoethyl}thiazole and 30 ml of a 25% hydrogen bromide-acetic acid solution was stirred at room temperature for one day. After removing the solvent, the mixture was neutralized with a 10% potassium carbonate aqueous solution. The crystals obtained were recrystallized from a methanol-isopropyl ether mixed solution to obtain 1.27 g of 4-carboxy-5-{2-[N-((1S)-1-ethoxycarbonyl-3-phenylpropyl)-(L)-phenylalanyl]aminoethyl}thiazole.

reactant | 4-benzyloxycarbonyl-5-{2-[N-((1S)-1-ethoxycarbonyl-3-phenylpropyl)-(L)-phenylalanyl]aminoethyl}thiazole | 2.2 g | C(C1=CC=CC=C1)OC(=O)C=1N=CSC1CCNC([C@@H](N[C@@H](CCC1=CC=CC=C1)C(=O)OCC)CC1=CC=CC=C1)=O | C34H37N3O5S
reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
product | 4-carboxy-5-{2-[N-((1S)-1-ethoxycarbonyl-3-phenylpropyl)-(L)-phenylalanyl]aminoethyl}thiazole | 1.27 g | C(=O)(O)C=1N=CSC1CCNC([C@@H](N[C@@H](CCC1=CC=CC=C1)C(=O)OCC)CC1=CC=CC=C1)=O | C27H31N3O5S
